US05212187
N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.63 g (2.0 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 3-[3-(piperidinomethyl)phenoxy]propylamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=591 ([M+H]+, 7), 229 (86), 109 (100). For further analysis, a portion of the compound is converted into the hydrochloric acid salt and is extracted from ether in the form of a dry foam by stirring; m.p.: 123°-125° C. (ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 2.0 mmol, 0.63 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | FC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCNC(=O)NCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C34H47FN6O2
